US08530468B2
1-(4-methoxybenzyl)-6-bromo-1H-imidazo[4,5-c]pyridine
Acetic anhydride (1.28 mL, 13.6 mmol) was added to a solution of N4-(4-methoxybenzyl)-6-bromopyridine-3,4-diamine (1.05 g, 3.41 mmol) in triethylorthoformate (13 mL). The mixture was heated at 100° C. for 18 hours and then concentrated to give the title compound as a brown oil (1.18 g, quantitative). 1H NMR (d6-DMSO, 400 MHz) δ 8.75 (s, 1H), 8.60 (s, 1H), 8.00 (s, 1H), 7.35 (d, 2H, J=8.8 Hz), 6.90 (d, 2H, J=8.8 Hz), 5.45 (s, 2H), 3.70 (s, 3H). LCMS (2) Rt=2.27 min; m/z (ESI+) 318, 320 (MH+).

reactant | Acetic anhydride | 13.6 mmol, 1.28 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N4-(4-methoxybenzyl)-6-bromopyridine-3,4-diamine | 3.41 mmol, 1.05 g | COC1=CC=C(CNC2=C(C=NC(=C2)Br)N)C=C1 | C13H14BrN3O
solvent | triethylorthoformate | 13 mL | C(C)OC(OCC)OCC | C7H16O3
product | 1-(4-methoxybenzyl)-6-bromo-1H-imidazo[4,5-c]pyridine | 1.18 g | COC1=CC=C(CN2C=NC=3C=NC(=CC32)Br)C=C1 | C14H12BrN3O
